US08557983B2
(2-fluorophenyl)(trifluoromethyl)sulfane
Methyl viologen hydrochloride (1.17 g) in N,N-dimethylformamide (80 mL) at 25° C. was saturated with trifluoromethyl iodide, treated with 2-fluorobenzenethiol (9.7 mL) and triethylamine (20 mL), stirred for 24 hours, diluted with water (240 mL) and extracted with diethyl ether. The extract was washed with 1M aqueous NaOH, saturated ammonium chloride and brine and concentrated.

reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | 2-fluorobenzenethiol | 9.7 mL | FC1=C(C=CC=C1)S | C6H5FS
reactant | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | water | 240 mL | O | H2O
product | (2-fluorophenyl)(trifluoromethyl)sulfane | FC1=C(C=CC=C1)SC(F)(F)F | C7H4F4S
